US08383631B2
3-amino-1-{(4-phenylpiperazin-1-yl)propanoyl}-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 3)
A target compound (77.8 mg, 0.169 mmol, 44.7%) was yielded as liquid in the same manner as Example 1 by reacting 1-N-t-butoxycarbonyl-3-amino-4,5,6,7-tetrahydro-6-N-(p-tolyl)pyrazolo[3,4-c]pyridin-7-one (130 mg, 0.379 mmol) with potassium carbonate (57.6 mg, 0.417 mmol) and 3-chloro-1-(4-phenylpiperazin-1-yl)propan-1-one (100.6 mg, 0.398 mmol).

reactant | 1-N-t-butoxycarbonyl-3-amino-4,5,6,7-tetrahydro-6-N-(p-tolyl)pyrazolo[3,4-c]pyridin-7-one | 0.379 mmol, 130 mg | C(C)(C)(C)OC(=O)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C)=O)N | C18H22N4O3
reactant | potassium carbonate | 0.417 mmol, 57.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-(4-phenylpiperazin-1-yl)propan-1-one | 0.398 mmol, 100.6 mg | ClCCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C13H17ClN2O
product | 3-amino-1-{(4-phenylpiperazin-1-yl)propanoyl}-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C)=O)C(CCN2CCN(CC2)C2=CC=CC=C2)=O | C26H30N6O2
